US08012976B2
Ethyl 7-fluoro-3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of 4-fluorobenzaldehyde (248 mg, 2 mmol) and (E)-6-fluoro-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one (518 mg, 2 mmol) in ethyl propionate (10 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (184 mg, 8 mmol) in ethanol (5 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 0.5 hr. The mixture was quenched with water (20 mL) and solvents were removed in vacuum. The residues were dissolved in water and extracted with ethyl acetate three times. The combined organic layers were washed with water and brine. After the removal of solvents, the crude product was purified by flash column chromatography to obtain a yellow solid, which was dried in vacuum at 50° C. to give the title compound (200 mg, yield: 24%). LC-MS (ESI) m/z: 412 (M+1)+.

reactant | 4-fluorobenzaldehyde | 2 mmol, 248 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | (E)-6-fluoro-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one | 2 mmol, 518 mg | FC1=CC(=C2COC(C2=C1)=O)/N=C/C=1N(C=CN1)C | C13H10FN3O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8 mmol, 5 mL, 184 mg | C(C)O | C2H6O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 7-fluoro-3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 200 mg, yield: 24% | FC=1C=C(C=2C(C(C(NC2C1)C=1N(C=CN1)C)C1=CC=C(C=C1)F)=O)C(=O)OCC | C22H19F2N3O3
